US07192968B2
(±)-trans-1,2-Cycloheptanediol
Cycloheptene (3.85 g) was added portionwise to 30% aqueous hydrogen peroxide (45 ml) and 88% formic acid (180 ml), and the mixture was stirred at 40 to 50° C. for 1 hour and then at room temperature for a night. The solvent was distilled off under reduced pressure, and a 35% aqueous solution of sodium hydroxide was added to the residue to alkalify it. After this residue was stirred at 40 to 50° C. for 10 minutes, ethyl acetate was added to conduct liquid separation. The resultant water layer was extracted 4 times with ethyl acetate. The resultant organic layers were collected and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure to obtain the title compound (4.56 g) as a colorless oil.

reactant | Cycloheptene | 3.85 g | C1=CCCCCC1 | C7H12
reactant | hydrogen peroxide | 45 ml | OO | H2O2
reactant | formic acid | 180 ml | C(=O)O | CH2O2
product | (±)-trans-1,2-Cycloheptanediol | 4.56 g | [C@@H]1([C@@H](CCCCC1)O)O | C7H14O2
